US07902252B2
To a polyphosphoric acid (115%, 1.6 g) was added 3-(5-(methoxycarbonyl)-1H-pyrrol-3-yl)propanoic acid (174 mg, 0.88 mmol) and 1,2-dichloroethane (8 mL). The reaction mixture was heated for 1 h at 100° C. Water (20 mL) was added and the mixture was carefully poured into a 50 mL Erlenmeyer flask containing solid sodium bicarbonate and ice. The reaction was neutralized (pH 7) and was then extracted with EtOAc (5×50 mL). The combined organic extracts were washed with water, NaHCO3 and brine, dried (Na2SO4) filtered and concentrated. Purification by flash chromatography (0-40% EtOAc/Heptane) afforded methyl 6-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (106 mg, 67%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 2.91 (s, 4H), 3.92 (s, 3H), 6.78 (d, J=1.76 Hz, 1H), 9.33 (br s, 1H); LCMS-MS (ESI+) 180.2 (M+H).

reactant | 3-(5-(methoxycarbonyl)-1H-pyrrol-3-yl)propanoic acid | 0.88 mmol, 174 mg | COC(=O)C1=CC(=CN1)CCC(=O)O | C9H11NO4
reactant | 1,2-dichloroethane | 8 mL | ClCCCl | C2H4Cl2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | Water | 20 mL | O | H2O
product | methyl 6-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 106 mg, 67% | O=C1CCC2=C1NC(=C2)C(=O)OC | C9H9NO3
